B2B_INV (TINA Netlist Editor format)
**************************************
**  This file was created by TINA   **
**         www.tina.com             ** 
**      (c) DesignSoft, Inc.        **          
**     www.designsoftware.com       **
**************************************
.LIB "<TINADIR>\EXAMPLES\SPICE\TSPICE.LIB"
.LIB "<TINADIR>\SPICELIB\Operational Amplifiers.LIB"
.TEMP 27
.AC DEC 20 10 1MEG
.TRAN 2N 1U
.DC LIN VPWM3 0 1 10M

.PROBE V([UBUS]) V(20) I(LGRID_A) I(LGRID_B) I(LGRID_C)
.PROBE I(VAM3) I(VAM2) I(VAM1) V(32,28) V(31,28) V(30,28)

VS4         VGRID_C 8 5
VS3         VGRID_B 8 5
VS2         VGRID_A 8 5
LGRID_C     VGRID_C GRID_C_R 1M IC=0
RGRID_C     GRID_C_R 9 50M
LGRID_B     VGRID_B GRID_B_R 1M IC=0
RGRID_B     GRID_B_R 10 50M
LGRID_A     VGRID_A GRID_A_R 1M IC=0
RGRID_A     GRID_A_R 11 50M
VPWM3       12 10 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM4       13 IB_SENSOR DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM1       14 11 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM2       15 IA_SENSOR DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM5       16 9 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM6       17 IC_SENSOR DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM9       18 19 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM10      21 IB2_SENSOR DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM7       22 23 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM8       24 IA2_SENSOR DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM11      25 26 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM12      27 IC2_SENSOR DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VAM3        26 33 ; Current Arrow
VAM2        19 34 ; Current Arrow
VAM1        23 35 ; Current Arrow
R17         8 0 1MEG 
R20         IC_SENSOR 0 5M 
R19         IB_SENSOR 0 5M 
R18         IA_SENSOR 0 5M 
MT18        UBUS 12 10 10  ME_2N6755_N_1 NRD=0 NRS=0 
MT17        10 13 IB_SENSOR IB_SENSOR  ME_2N6755_N_1 NRD=0 NRS=0 
MT16        UBUS 14 11 11  ME_2N6755_N_1 NRD=0 NRS=0 
MT15        11 15 IA_SENSOR IA_SENSOR  ME_2N6755_N_1 NRD=0 NRS=0 
MT14        UBUS 16 9 9  ME_2N6755_N_1 NRD=0 NRS=0 
C9          UBUS 0 100U 
MT13        9 17 IC_SENSOR IC_SENSOR  ME_2N6755_N_1 NRD=0 NRS=0 
C8          UBUS 0 100U 
R16         IC2_SENSOR 0 5M 
R15         IB2_SENSOR 0 5M 
R14         IA2_SENSOR 0 5M 
MT12        20 18 19 19  ME_2N6755_N_1 NRD=0 NRS=0 
MT11        19 21 IB2_SENSOR IB2_SENSOR  ME_2N6755_N_1 NRD=0 NRS=0 
MT10        20 22 23 23  ME_2N6755_N_1 NRD=0 NRS=0 
MT9         23 24 IA2_SENSOR IA2_SENSOR  ME_2N6755_N_1 NRD=0 NRS=0 
MT8         20 25 26 26  ME_2N6755_N_1 NRD=0 NRS=0 
R13         UBUS 20 50M 
C7          20 0 100U 
MT7         26 27 IC2_SENSOR IC2_SENSOR  ME_2N6755_N_1 NRD=0 NRS=0 
C6          20 0 100U 
R12         28 0 1MEG 
R11         29 0 1MEG 
R10         30 29 1MEG 
R9          31 29 1MEG 
R8          32 29 1MEG 
R7          32 28 10 
R6          31 28 10 
R5          30 28 10 
C5          32 29 5U 
C4          31 29 5U 
C3          30 29 5U 
L3          36 32 1M IC=0 
R4          33 36 50M 
L2          37 31 1M IC=0 
R2          34 37 50M 
L1          38 30 1M IC=0 
R1          35 38 50M 

.MODEL ME_2N6755_N_1 NMOS( LEVEL=3 VTO=3.128 KP=21.14U PHI=600M GAMMA=0 TOX=100N 
+      UO=600 VMAX=0 DELTA=0 THETA=0 ETA=0 
+      L=2U W=1.1 RD=64.68M RS=120.7M RG=5.839 
+      RB=0 RDS=600K IS=44.14F N=1 PB=800M 
+      CBD=1.261N CBS=0 MJ=500M TT=370N CGSO=725.6P 
+      CGDO=310.6P CGBO=0 KF=0 AF=1 )

.END
